US07781443B2
(2R*,4S*)-4-Amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (3.80 g), 5-bromo-2-chloropyrimidin (6.92 g) and N,N-diisopropylethylamine (6.23 ml) are dissolved in 1,4-dioxane (50 ml) and the mixture is heated under reflux for 4 hours. After cooling to room temperature, the reaction solution is partitioned by adding a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=9:1→6:4) to give (2R*,4S*)-4-(5-bromopyrimidin-2-yl)amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (5.92 g). MS (m/z): 422/424 [M+H]+

reactant | (2R*,4S*)-4-Amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 3.80 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)N)C | C13H19N3O3
reactant | 5-bromo-2-chloropyrimidin | 6.92 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | N,N-diisopropylethylamine | 6.23 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (2R*,4S*)-4-(5-bromopyrimidin-2-yl)amino-6-methoxy-2-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 5.92 g | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=N1)Br)C | C17H20BrN5O3
